US07141596B2
Step 5. (2S)-2-[(benzyloxy)carbonyl]amino-3-[3-chloro-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoic acid
Methyl (2S)-2-amino-3-[3-chloro-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]-propanoate trifluoroacetate (50.0 mg, 0.108 mmol) was dissolved in trifluoroacetic acid (3 mL) and heated in the microwave at 130° C. for 180 s. The reaction was concentrated in vacuo and then dissolved in methanol (1.0 mL). The solution was treated with triethylamine (75.6 μL, 0.542 mmol) and benzyl chloroformate (21.7 μL, 0.152 mmol). The reaction stirred at rt for 2 h. The reaction was then treated with aqueous lithium hydroxide solution (4.0 M, 0.14 mL) and allowed to stir for 2 h. The reaction was quenched with aqueous hydrochloric acid solution (1.0 N, 1.0 mL) and purified by reverse phase HPLC to afford the product as a white solid (26 mg, 51%). LCMS found for C20H20ClN2O7S (M+H)+: m/z=467.

reactant | Methyl (2S)-2-amino-3-[3-chloro-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]-propanoate trifluoroacetate | 0.108 mmol, 50.0 mg | FC(C(=O)O)(F)F.N[C@H](C(=O)OC)CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)Cl
reactant | triethylamine | 0.542 mmol, 75.6 μL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 0.152 mmol, 21.7 μL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | lithium hydroxide | 4.0 M, 0.14 mL | [OH-].[Li+]
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (2S)-2-[(benzyloxy)carbonyl]amino-3-[3-chloro-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoic acid | 26 mg, 51% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)Cl | C20H19ClN2O7S
